US08466115B2
1-(4-chloro-3,5-difluorophenyl)-2,2,2-trifluoroethanone
5-bromo-2-chloro-1,3-difluorobenzene (2000 mg, 8.2 mmol) was stirred at room temperature in THF under N2 and the isopropylmagnesium chloride/LiCl reagent (1310 mg, 9.02 mmol, 6.94 mL) was added over about 1 minute—very slight exotherm noticed to ˜30° C. Reaction was stirred at room temperature for 30 minutes followed by the addition of methyl trifluoroacetate (1580 mg, 12.3 mmol, 1.24 mL) over about 1 minute—slight exotherm to ˜40° C. Solvents were evaporated under reduced pressure to provide the desired product. 1H NMR (CDCl3) δ ppm: 8.05 (s, 2H).

reactant | 5-bromo-2-chloro-1,3-difluorobenzene | 8.2 mmol, 2000 mg | BrC=1C=C(C(=C(C1)F)Cl)F | C6H2BrClF2
reactant | isopropylmagnesium chloride LiCl | 9.02 mmol, 6.94 mL, 1310 mg | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | methyl trifluoroacetate | 12.3 mmol, 1.24 mL, 1580 mg | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-chloro-3,5-difluorophenyl)-2,2,2-trifluoroethanone | ClC1=C(C=C(C=C1F)C(C(F)(F)F)=O)F | C8H2ClF5O
